US09029371B2
A mixture of 2-[4-(2,3-dimethyl-phenoxy)-phenyl]-morpholine (1.00 g; 3.13 mmol), tert-butyl acetoacetate (2.07 mL; 12.5 mmol), sodium triacetoxyborohydride (1.86 g; 8.75 mmol), and a drop of acetic acid, in 1,2-dichloroethane (20 mL) was stirred overnight, at RT. The resulting mixture was treated with 5% aqueous NaHCO3 and extracted with CH2Cl2. The combined organic layers were dried (Na2SO4), filtered, concentrated in vacuo, and purified by column chromatography (SiO2, Et2O/hexanes 1:3) to afford 3-{2-[4-(2,3-dimethyl-phenoxy)-phenyl]-morpholin-4-yl}-butyric acid tert-butyl ester (1.17 g

reactant | 2-[4-(2,3-dimethyl-phenoxy)-phenyl]-morpholine | 3.13 mmol, 1.00 g | CC1=C(OC2=CC=C(C=C2)C2CNCCO2)C=CC=C1C | C18H21NO2
reactant | tert-butyl acetoacetate | 12.5 mmol, 2.07 mL | C(CC(=O)C)(=O)OC(C)(C)C | C8H14O3
reactant | sodium triacetoxyborohydride | 8.75 mmol, 1.86 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | 1,2-dichloroethane | 20 mL | ClCCCl | C2H4Cl2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-{2-[4-(2,3-dimethyl-phenoxy)-phenyl]-morpholin-4-yl}-butyric acid tert-butyl ester | C(C)(C)(C)OC(CC(C)N1CC(OCC1)C1=CC=C(C=C1)OC1=C(C(=CC=C1)C)C)=O | C26H35NO4
